US07030242B2
2-Benzyloxycarbonylamino-3-hydroxy-butyric acid 3-methyl-oxetan-3-ylmethyl ester
To a N,N-dimethylformamide (750 ml) solution 2-benzyloxycarbonylamino-3-hydroxy-butyric acid, cesium salt (123.9 g, 0.322 mol) at about 23° C. was added 3-bromomethyl-3-methyl-oxetane (60 ml, 0.420 mol). The reaction was stirred at about 23° C. for about 18 hours and was then concentrated in vacuo. The residue was diluted with ethyl acetate and extracted with saturated sodium bicarbonate, washed with saturated ammonium chloride and saturated sodium chloride, dried with sodium sulfate and concentrated to give 100 g of the title compound.

reactant | 2-benzyloxycarbonylamino-3-hydroxy-butyric acid | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)C(C)O | C12H15NO5
reactant | cesium | 0.322 mol, 123.9 g | [Cs] | Cs
reactant | 3-bromomethyl-3-methyl-oxetane | 0.420 mol, 60 ml | BrCC1(COC1)C | C5H9BrO
solvent | N,N-dimethylformamide | 750 ml | CN(C=O)C | C3H7NO
product | 2-Benzyloxycarbonylamino-3-hydroxy-butyric acid 3-methyl-oxetan-3-ylmethyl ester | 100 g | CC1(COC1)COC(C(C(C)O)NC(=O)OCC1=CC=CC=C1)=O | C17H23NO6
